US07129239B2
Preparation of 6-(1-Benzhydrylazetidin-3-yloxy)-9-(4-chlorophenyl)-8-(2,4-dichlorophenyl)-9H-purine (3A-1)
To a tetrahydrofuran (1 ml) solution of 6-chloro-9-(4-chlorophenyl)-8-(2,4-dichlorophenyl)-9H-purine I-(1A-1)d (30 mg, 0.073 mmol) and 1-benzhydrylazetidin-3-ol (53 mg, 0.22 mmol) was added potassium tertbutoxide (24 mg, 0.22 mmol). The combined reagents were stirred overnight at ambient temperature. The reaction mixture was concentrated to dryness and the residue was extracted into ethyl acetate from saturated NaHCO3 solution. The organic layers were combined, dried (Na2SO4), filtered, and evaporated to dryness. The crude product was purified by chromatography on a preparative TLC plate using 4% methanol/methylene chloride as the solvent to give title compound 3A-1 as a yellow oil. A solution of the material in methylene chloride was treated with excess 1 N HCl in diethyl ether, stirred, evaporated to dryness, and then triturated in diethyl ether to afford the hydrochloride salt of compound 3A-1 (14 mg, 31%): +ESI MS (M+1) 612.2; 1H NMR (400 MHz, CD3OD) δ 8.51 (s, 1H), 7.65–7.30 (m, 17H), 5.85–5.77 (br m, 2H), 4.75–4.60 (br m, 2H), 4.55–4.30 (br m, 2H).

reactant | 6-chloro-9-(4-chlorophenyl)-8-(2,4-dichlorophenyl)-9H-purine | 0.073 mmol, 30 mg | ClC1=C2N=C(N(C2=NC=N1)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl | C17H8Cl4N4
reactant | 1-benzhydrylazetidin-3-ol | 0.22 mmol, 53 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)O | C16H17NO
reactant | potassium tertbutoxide | 0.22 mmol, 24 mg | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 6-(1-Benzhydrylazetidin-3-yloxy)-9-(4-chlorophenyl)-8-(2,4-dichlorophenyl)-9H-purine | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)OC1=C2N=C(N(C2=NC=N1)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl | C33H24Cl3N5O
